US03974176
5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile
35 g of 5-chloro-4-chloromethyl-3-p-chlorophenyl-pyrazole are added while stirring and slight cooling at 25° to a mixture of 6.15 g of sodium cyanide in 150 ml of dimethylsulfoxide. Stirring is carried out for 2 to 5 hours at this temperature until the reaction is determinated. The solution is mixed with 200 ml of water and 200 ml of trichloroethylene or benzene. The layers are separated. Washing is carried out with the organic solvent. Drying is carried out with sodium sulfate and the organic phase is purified with Tonsil. By reducing in bulk in vacuo 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile is obtained with a yield equal to 99% of the theoretical amount; F 129.5°-130.5° (from acetonitrile).

reactant | 5-chloro-4-chloromethyl-3-p-chlorophenyl-pyrazole | 35 g | ClC1=C(C(=NN1)C1=CC=C(C=C1)Cl)CCl | C10H7Cl3N2
reactant | sodium cyanide | 6.15 g | [C-]#N.[Na+]
reactant | water | 200 ml | O | H2O
reactant | trichloroethylene | 200 ml | ClC=C(Cl)Cl | C2HCl3
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-Chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC#N | C17H11Cl2N3
